US06284774B1
Step A: Preparation of 5-chloro-6-chlorosulfonyl-3H-benzooxazol-2-one
5-Chloro-3H-benzooxazol-2-one (10.0 g, 59 mmol) was added in portions to chlorosulfonic acid (30 mL) at −20° C. with stirring. The mixture was stirred at room temperature for 2.5 hours and at 70° C. for 1.5 hours. The cooled reaction mixture was poured slowly into iced-water (300 mL) and stirred for 1 hour. The precipitate was collected and washed with water. The dried precipitate was stirred in chloroform (500 mL) for 3 hours at room temperature, filtered off and dried to give 12.3 g of a pale pink solid.

reactant | 5-Chloro-3H-benzooxazol-2-one | 59 mmol, 10.0 g | ClC=1C=CC2=C(NC(O2)=O)C1 | C7H4ClNO2
reactant | chlorosulfonic acid | 30 mL | ClS(=O)(=O)O | ClHO3S
solvent | water | 300 mL | O | H2O
product | 5-chloro-6-chlorosulfonyl-3H-benzooxazol-2-one | 12.3 g | ClC=1C(=CC2=C(NC(O2)=O)C1)S(=O)(=O)Cl | C7H3Cl2NO4S
